US06051712
In an analogous manner to that described in Example 22 (d), from tert-butyl (3RS,4RS,5SR)-1-benzyl-4-(4-bromo-phenyl)-5-hydroxymethyl-piperidin-3-ol [Example 68 (e)] by a palladium catalyzed carbonylation with carbon monoxide in methanol there was obtained methyl (3RS,4RS,5SR)-4-(1-benzyl-3-hydroxy-5-hydroxymethyl-piperidin-4-yl)-benzoate, hydrogenolysis of which in the presence of 5% palladium-charcoal at atmospheric pressure in methanol analogously to Example 2 (e) gave methyl 4-(3-hydroxy-5-hydroxymethyl-piperidin-4-yl)-benzoate. Subsequent introduction of the BOC group analogously to Example 1 (f) yielded tert-butyl (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-(4-methoxycarbonyl-phenyl)-piperidine-1-carboxylate, from which by reaction with triphenylchloromethane analogously to Example 68 (i) there was obtained tert-butyl (3RS,4RS,5SR)-3-hydroxy-4-(4-methoxycarbonyl-phenyl)-5-trityloxymethyl-piperidine-1-carboxylate. Subsequent alkylation by means of 2-bromomethyl-naphthalene analogously to Example 1 (g) yielded tert-butyl (3RS,4RS,5SR)-4-(4-methoxycarbonyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate, reduction of which with lithium borohydride analogously to Example 22 (e) yielded tert-butyl (3RS,4RS,5SR)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate as a colourless foam; MS: 737 (M+NH4)+. Further alkylation with 2-(benzyloxy)-ethyl iodide [Helv.Chim. Acta Vol.71, (1988), 2039] analogously to Example 1 (g) gave tert-butyl (3RS,4RS,5SR)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate, from which after cleavage of the trityl group by means of a mixture of trifluoroacetic acid and trifluoroacetic anhydride in methylene chloride analogously to Example 86 (u) there was obtained tert-butyl (3SR,4RS,5RS)-4-[4-(2-benzyloxy-ethoxymethyl)-phenyl]-3-hydroxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil; MS: 629 (M+NH4)+.

reactant | 2-bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | tert-butyl (3RS,4RS,5SR)-4-(4-methoxycarbonyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate | COC(=O)C1=CC=C(C=C1)C1C(CN(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C49H49NO6
reactant | lithium borohydride | [BH4-].[Li+]
product | tert-butyl (3RS,4RS,5SR)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-5-trityloxymethyl-piperidine-1-carboxylate | OCC1=CC=C(C=C1)C1C(CN(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C48H49NO5
